.subckt lm7805 in GND out
* F:\Local\LTspice\examples\Educational\LM7805.asc
Q1 in N005 N008 0 NP
Q2 in N002 N005 0 NP
R1 N008 out .3
R2 N005 N008 2K
R3 out N010 905
R4 N010 0 2.6K
Q3 N016 N018 0 0 NP
Q4 N001 N001 in 0 PN
R5 N013 N016 4K
R6 N002 N013 1K
Q5 N021 N021 0 0 NP
R7 N018 N021 4K
Q6 N016 N015 N018 0 NP
C1 N016 N015 20p
Q7 N015 N020 N022 0 NP
R8 N022 0 1K
R9 N011 N015 17K
Q8 out N010 N011 0 NP
Q9 N002 N007 out 0 NP
Q10 N002 N009 0 0 NP
Q11 N011 N017 N020 0 NP
R10 N020 0 12.1K
R11 N009 0 200
R12 N006 N009 3.4K
Q12 N017 N019 0 0 NP
R13 N014 N017 26
R14 N012 N014 1.9K
Q13 N012 N014 N019 0 NP
R15 N019 0 1.2K
Q14 N001 N010 N012 0 NP
R16 N001 N012 30K
Q15 in N004 N006 0 NP
D1 0 N004 6.3V
R17 N008 N007 230
D2 N007 N003 DZ
R18 in N003 10K
Q16 N004 N001 in 0 PN
Q17 N002 N001 in 0 PN
C2 out 0 1
Q18 0 N016 N013 0 PN
.model D D
.lib C:\Users\qwpmb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\qwpmb\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model 6.3V D(BV=6.3)
.model DZ D(BV=3.5)
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
.tran 10m
;.param Rx 905 ; 5V
;.param Rx 5.78K ; 12V
;.param Rx 7.87K ; 15V
* This example schematic is supplied for informational/educational purposes only.
.step param Rx list 905 5.78K 7.87K
.backanno
.end
